US06716850B2
(1S,1 aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic Acid
(1S,1 aR,7bS)-1-(bromomethyl)-4,7-difluoro-1 a,7b-dihydrocyclopropa[c]chromen-2(1 h)-one (360 mg, 1.2 mmol) was mixed with the solution of NaOH (0.1 g, 2.5 mmol) in 5 ml of water and heated at stirring for 1 h at 90° C. After completion the reaction mixture was cooled down and extracted into diethyl ether (2×20 ml). Water phase was acidified with conc. HCl. The precipitate formed was collected by filtration to give 180 mg of pure product. Mother liquor was extracted into ether and washed with brine, dried over magnesium sulfate. Concentration gave additional 70 mg of product (containing up to 15% of impurities). Overall yield about 92%.

reactant | (1S,1 aR,7bS)-1-(bromomethyl)-4,7-difluoro-1 a,7b-dihydrocyclopropa[c]chromen-2(1 h)-one | 1.2 mmol, 360 mg | BrC[C@@H]1[C@@H]2C(OC=3C(=CC=C(C3[C@@H]21)F)F)=O | C11H7BrF2O2
reactant | NaOH | 2.5 mmol, 0.1 g | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | (1S,1 aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic Acid | 180 mg | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3C(=O)O)F | C11H8F2O3
